* Z:\Users\BenPro\Documents\Electronic Projects\SPICE\New\Draft4.asc
R1 N004 P001 270
R2 N005 N006 118
R3 N004 N005 4K
C1 P001 0 100µF
V1 N001 0 63
R4 N002 N009 930K
R5 N002 0 8K
R6 N003 N002 8K
C2 N009 N008 47nF
C3 N004 N005 470pF
C5 N006 0 3300pF
C6 N002 0 100µF
R7 N008 0 59
I1 N008 0 SINE(-6.2mA 3.5mA 200)
C7 N007 N006 10µF
R8 N007 0 5K
R9 NC_01 N003 39
C8 0 N003 2200µF
XU1 N009 N004 N003 0 N005 LT1028
R11 N001 P002 4K7
D1 0 P002 1N750
.model D D
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.dio
.tran 0 4 0
.lib LTC.lib
.backanno
.end
